US20010025117A1
Under nitrogen atmosphere, 4.46 g (21.65 mmol) of lithium 1-(1-methyl-1-silacyclobutyl)indene and 4.08 g (10.81 mmol) of ZrCl4(THF)2, which was obtained by reacting ZrCl4 with THF, was placed in each flask respectively. 50 mL of dichloromethane was added to each flask with stirring for about 30 minutes to form suspension. The suspension of ZrCl4(THF)2 in the second flask was slowly added into the suspension of lithium 1-(1-methyl-1-silacyclobutyl)indene in the first flask, and then the remained solid in the second flask was washed with 10 mL of dichloromethane and added into the first flask. With repeating the washing and addition process for three times, the reaction mixture was stirred overnight. After completion of reaction, LiCl was filtered and removed from yellowish solution with 11G4 filter. The solvent was then evaporated from the filtrate under vacuum until solid powder is formed in the filtrate. The condensed filtrate was placed at −20° C. for about 24 hours for crystallization. The yellowish powder formed by crystallization was filtered, washed several times with hexane, and dried under vacuum overnight to obtain 5.25 g (yield: 86.6%) of pure bis((1-methyl-1-silacyclobutyl)indenyl)zirconium dichloride having the following 1H NMR (CDCl3, ppm) data: δ7.9-7.27 (m, 8H, Ar), 6.59 (d, 2H, 2-lndH), 6.35 (d, 2H, 3-lndH), 2.36-2.11 (m, 4H), 1.50-1.22 (m, 4H), 0.68 (s, 6H, 2CH3).

reactant | ZrCl4 | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium 1-(1-methyl-1-silacyclobutyl)indene | C[Si]1(CCC1)C1C=CC2=CC=CC=C12.[Li]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | bis((1-methyl-1-silacyclobutyl)indenyl)zirconium dichloride | 5.25 g, yield: 86.6% | [Cl-].[Cl-].C[Si]1(CCC1)C=1C(C2=CC=CC=C2C1)[Zr+2]C1C(=CC2=CC=CC=C12)[Si]1(CCC1)C | InChI=1S/2C13H15Si.2ClH.Zr/c2*1-14(7-4-8-14)13-9-11-5-2-3-6-12(11)10-13;;;/h2*2-3,5-6,9-10H,4,7-8H2,1H3;2*1H;/q;;;;+2/p-2
